US07351725B2
4-(1-Decanoyl)benzaldehyde
Tetrakis(triphenylphosphine)palladium(0) (50 mg) was added to a solution of 4-formylphenylboronic acid (0.50 g, 3.33 mmol), nonanoyl chloride (1.7 mL, 8.33 mmol) and cesium carbonate (2.70 g, 8.33 mmol) in toluene (40 mL) and heated to 80° C. After stirring overnight, the reaction was diluted with ethyl acetate (50 mL) and washed with 2N hydrochloric acid (50 mL), sat'd sodium chloride (50 mL), dried over magnesium sulfate and concentrated in vacuo. Silica gel chromatography eluting with 6% ethyl acetate/hexane gave 0.022 g (0.083 mmol, 3%) of product: 1H NMR (500 MHz) δ 10.1 (s, 1H), 8.09 (d, J=8.2 Hz, 2H), 7.98 (d, J=8.2 Hz, 2H), 3.00 (t, J=7.4 Hz, 2H), 1.70-1.80 (m, 2H), 1.22-1.42 (m, 12H), 0.88 (t, J=6.9 Hz, 3H).

reactant | 4-formylphenylboronic acid | 3.33 mmol, 0.50 g | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | nonanoyl chloride | 8.33 mmol, 1.7 mL | C(CCCCCCCC)(=O)Cl | C9H17ClO
reactant | cesium carbonate | 8.33 mmol, 2.70 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 50 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(1-Decanoyl)benzaldehyde | 0.083 mmol, 0.022 g, 3% | C(CCCCCCCCC)(=O)C1=CC=C(C=O)C=C1 | C17H24O2
